US09023883B2
A solution of tert-butyl (2-(((3-(4-aminophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate (0.150 g, 0.000338 mol) in DCM (3 mL) was cooled to 0° C. TEA (0.068 g, 0.000677 mol) and methacryloyl chloride (0.042 g, 0.000406 mol) were added and the reaction mixture stirred for 15 mins at 0° C. The reaction was poured into water (25 mL) and extracted with EtOAc (20 mL×2). The combined extracts was washed with brine (30 mL), dried over sodium sulphate and concentrated under vacuum. The residue was purified by SGC using DCM:MeOH (0%-5%) as eluent to obtain tert-butyl (2-(((3-(4-methacrylamidophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate (0.080 g, Yield: 45%). ESI-MS: m/z=512.3 [M+1]+.

reactant | tert-butyl (2-(((3-(4-aminophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate | 0.000338 mol, 0.150 g | NC1=CC=C(C=C1)C1=NN(C=C1CN(CCN(C(OC(C)(C)C)=O)C)C)C1OCCCC1 | C24H37N5O3
reactant | methacryloyl chloride | 0.000406 mol, 0.042 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | water | 25 mL | O | H2O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | tert-butyl (2-(((3-(4-methacrylamidophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate | 0.080 g, Yield: 45% | C(C(=C)C)(=O)NC1=CC=C(C=C1)C1=NN(C=C1CN(CCN(C(OC(C)(C)C)=O)C)C)C1OCCCC1 | C28H41N5O4
